### PR TITLE
[stdlib] [Vectors] add results on to_list

### PR DESCRIPTION
**Pull request by olaure01**
Add results about `Vector.to_list`.

**Kind:** feature.

- [x] Entry added in the changelog (see https://github.com/coq/coq/tree/master/doc/changelog#unreleased-changelog for details).

### CODE REVIEW

**Comment by olaure01** [comment]
CI errors seem to come from previous  [changelog](https://github.com/coq/coq/pull/13582#discussion_r549349562) in #13582.

File: theories/Vectors/VectorSpec.v [hunk 1]
```diff
@@ -387,3 +378,147 @@ intros P n v1 v2; split; induction n as [|n IHn].
...
+Lemma to_list_append A n m (v1 : t A n) (v2 : t A m):
+  to_list (append v1 v2) = List.app (to_list v1) (to_list v2).
+Proof.
+induction v1; simpl; auto.
+now rewrite to_list_cons; f_equal.
+Qed.
+
+Lemma to_list_rev_append_tail A n m (v1 : t A n) (v2 : t A m):
+  to_list (rev_append_tail v1 v2) = List.rev_append (to_list v1) (to_list v2).
+Proof. revert m v2; induction v1; intros m v2; [ auto | now simpl; rewrite IHv1 ]. Qed.
```
Comment (anton-trunov) [inline theories/Vectors/VectorSpec.v:455]: Here the proof relies on an autogenerated name, viz. `IHv1`. There is an ongoing effort to make the standard compile with `-mangle-names` CLI option. I'd suggest introducing this name explicitly.

**Review by anton-trunov — CHANGES_REQUESTED** [review]
Looks very useful to me, thank you! I just have a minor comment to address.

File: theories/Vectors/VectorSpec.v (hunk 1 above)
Comment (olaure01) [reply theories/Vectors/VectorSpec.v:455]: You are absolutely right, I missed this one.

**Review by anton-trunov — APPROVED** [review]

**Comment by anton-trunov** [comment]
LGTM! Let's merge this PR Tuesday next week to give some time for comments.

**Comment by anton-trunov** [comment]
@coqbot merge now
